US08222246B2
b) 3-Pyridin-2-yl-5-([E]-styryl)-isoxazole-4-carboxylic acid
To a solution of 5-methyl-3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester (3.0 g, 13 mmol) and benzaldehyde (1.32 mL, 13 mmol) in ethanol (20 mL) was added sodium ethylate (0.97 g, 14 mmol) and the reaction mixture was stirred at reflux for 40 min. Aqueous hydrochloric acid (1 M, 14 mL) was added and stirring was continued for 15 min. The precipitate was filtered and dried to afford the title compound (2.3 g, 61%) as an off-white solid. MS: m/e=290.9 [M−H]−.

reactant | 5-methyl-3-pyridin-2-yl-isoxazole-4-carboxylic acid ethyl ester | 13 mmol, 3.0 g | C(C)OC(=O)C=1C(=NOC1C)C1=NC=CC=C1 | C12H12N2O3
reactant | benzaldehyde | 13 mmol, 1.32 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium ethylate | 14 mmol, 0.97 g | CC[O-].[Na+]
reactant | hydrochloric acid | 1 M, 14 mL | Cl | ClH
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-Pyridin-2-yl-5-([E]-styryl)-isoxazole-4-carboxylic acid | 2.3 g, 61% | N1=C(C=CC=C1)C1=NOC(=C1C(=O)O)\C=C\C1=CC=CC=C1 | C17H12N2O3
